US09169259B2
A mixture of 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (150 mg, 0.38 mmol), methyl 4-amino-2-methoxybenzoate (70 mg, 0.38 mmol), 1-methyl-1H-imidazole (126 mg, 1.53 mmol) and EDCI (293 mg, 1.53 mmol) in DMF (3 mL) was stirred for 16 h at room temperature. Ethyl acetate (5 mL) and water (5 mL) were added. The organic layer was separated and the aqueous phase was extracted with ethyl acetate (20 mL). The combined organic phases were washed with brine (10 mL) and dried over Na2SO4. The residue was concentrated and purified by chromatography (silica gel, 200-300 mesh, dichloromethane:MeOH=50:1) to give methyl 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)-2-methoxybenzoate (100 mg, 47%) as brown liquid. LC-MS: [M+H]+, 555.1, tR=1.701 min

reactant | 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 0.38 mmol, 150 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C20H17N5O4
reactant | methyl 4-amino-2-methoxybenzoate | 0.38 mmol, 70 mg | NC1=CC(=C(C(=O)OC)C=C1)OC | C9H11NO3
reactant | 1-methyl-1H-imidazole | 1.53 mmol, 126 mg | CN1C=NC=C1 | C4H6N2
reactant | EDCI | 1.53 mmol, 293 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
solvent | Ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-(3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzamido)-2-methoxybenzoate | 100 mg, 47% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)NC3=CC(=C(C(=O)OC)C=C3)OC)C=CC1)C=CN2 | C29H26N6O6
